US06559173B1
3-Oxo-4-(2,4,6-trimethyl-phenyl)-butyronitrile (1.37 gms.) is then suspended in 20 mL of anhydrous EtOH. This suspension is treated with 0.428 mL of anhydrous hydrazine, and subsequently is heated to refluxing temperature overnight. The reaction mixture is cooled to room temperature and evaporated to dryness in vacuo to yield 1.73 gms. of a yellow oil. This oil is then triturated with warm ethyl acetate for 45 min. to provide a yellow-white precipitate. Collection of this precipitate by filtration provides the desired 5-(2,4,6-trimethyl-benzyl)-2H-pyrazol-3-ylamine in the amount of 0.498 gms.

reactant | 3-Oxo-4-(2,4,6-trimethyl-phenyl)-butyronitrile | 1.37 gms | O=C(CC#N)CC1=C(C=C(C=C1C)C)C | C13H15NO
reactant | hydrazine | 0.428 mL | NN | H4N2
solvent | EtOH | 20 mL | CCO | C2H6O
product | 5-(2,4,6-trimethyl-benzyl)-2H-pyrazol-3-ylamine | CC1=C(CC=2C=C(NN2)N)C(=CC(=C1)C)C | C13H17N3
